US08859544B2
Ethyl 6-[(2-methylindolizin-3-yl)carbonyl]-1-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate
1.53 g (11.12 mmol) of potassium carbonate and 0.69 ml (11.12 mmol) of methyl iodide are added, at ambient temperature under an inter atmosphere, to 3.73 g (9.27 mmol) of ethyl 6-[(2-methylindolizin-3-yl)carbonyl]-4-oxo-1,4-dihydroquinoline-3-carboxylate in 100 ml of DMF. The reaction medium is heated at 90° C. for 2 h. 0.384 g (2.78 mmol) of potassium carbonate and 0.173 ml (2.78 mmol) of methyl iodide are added and then the heating is continued for 40 minutes. The reaction medium is hydrolysed with water and then extracted with ethyl acetate and with dichloromethane. The organic phase is washed with a saturated solution of sodium chloride, dried over sodium sulphate, and then concentrated under reduced pressure. The residue obtained is purified by silica gel column chromatography, elution being carried out with a dichloromethane/methanol (90/10) mixture. 3.15 g of a yellow solid are obtained.

reactant | potassium carbonate | 11.12 mmol, 1.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 11.12 mmol, 0.69 ml | CI | CH3I
reactant | ethyl 6-[(2-methylindolizin-3-yl)carbonyl]-4-oxo-1,4-dihydroquinoline-3-carboxylate | 9.27 mmol, 3.73 g | CC=1C=C2C=CC=CN2C1C(=O)C=1C=C2C(C(=CNC2=CC1)C(=O)OCC)=O | C22H18N2O4
reactant | potassium carbonate | 2.78 mmol, 0.384 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 2.78 mmol, 0.173 ml | CI | CH3I
reactant | water | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | Ethyl 6-[(2-methylindolizin-3-yl)carbonyl]-1-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | 3.15 g | CC=1C=C2C=CC=CN2C1C(=O)C=1C=C2C(C(=CN(C2=CC1)C)C(=O)OCC)=O | C23H20N2O4
